Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
rituximab / prochlorperazine
 
Attending: ___
 
Chief Complaint:
Rituxamab desensitization 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms ___ is a ___ female with a history of breast cancer, 
psoriasis and Waldenstrom's Macroglobulinemia admitted for 
planned Rituximab desensitization. This is her ___ 
desensitization treatment of 4 total. She was just discharged 
___ from our service where she received her ___ infusion of 
Rituxamab without incident. Since her initial reaction to full 
dose Rituxamab she has not experienced any reactions during 
desensitization.
    
During the patient's first infusion, she developed erythema and 
hives on her back and around her ears, conjunctival injection, 
nasal congestion, throat swelling (subjective). She had a rise 
in her systolic blood pressure and her lungs remained clear 
without changes in her voice. She received steroids 
(Hydrocortisone 100mg, dexamethasone 20mg), benadryl 50mg IV, 
and pepcid 20mg IV with resolution of symptoms within 60 minutes 
later. Since then she has received desensitization therapy 
without issue
    
On current admission she appears well and has no new complaints. 
She 
is is slightly anxious but she feels well overall. She does 
report that during her desensitization period she has been 
having fluctuations in mood, increaseing anxiety and 
tearfullness. She reports after receiving desensitization on 
___ she is usually agitated and "angry" over the weekends, 
resolving by ___ the following week only to restart again 
after next round. She thinks this is the Dexamethasone effect. 
She has never had similar symptoms before desensitization. 
Patient also reports 3 falls in the last week. Once was a slip 
out of a chair when attempting to turn around. The other two 
were when trying to get out of bed. She reports no prodrome of 
symptoms including dizziness, lightheadedness, nausea, 
diaphoresis, tunnel vision, muffled hearing etc. She reports no 
loss of conciousness or "blacking out" She reports hitting the 
ground and hitting her head on the corner previously. She is 
having no neuro symptoms, no motor or sensory losses, no double 
vision, blurred vision etc.

 
Past Medical History:
-- With a history of breast cancer, she was found to have on
routine mammogram in ___ multiple abnormal-appearing
lymph nodes in the left inframammary and bilateral axillary
chains.
-- On ___, a fine needle aspirations of nodes in both the R
and L axilla were performed. Immunophenotypic findings were
consistent with a kappa-restricted B-cell lymphoproliferative
disorder that was negative for CD5 and CD10, suggesting a
possible marginal zone or lymphoplasmacytic lymphoma.
-- On ___, CT of the torso and neck were performed. Neck CT
reported numerous bilateral cervical lymph nodes with abnormal
morphology at all levels measuring up to 8 mm in short axis.
Torso CT found lymphadenopathy involving L axillary, 
mediastinal, L hilar, retrocrural, retroperitoneal, pelvic and
inguinal chains. In the chest, the largest focus was an
infracarinal lymph node measuring 3.2 x 1.3 cm. In the abdomen,
the largest focus was a conglomerate of lymph nodes at the level
of the left renal hilum measuring 2.5 x 2.9 cm. In the pelvis,
the largest foci were a lymph node on the right measuring 1.8 x
1.6 cm and a lymph node on the left measuring 2.0 x 1.7 cm. 
-- On ___, excisional lymph node biopsy procedure in the 
left axilla yielded 2 firm and large rubbery LNs ~1.2 cm in 
size.
-- Histologic sections revealed an enlarged lymph node that was
entirely effaced by an atypical nodular lymphoid population.
Cellularity was composed of small mature appearing lymphocytes,
lymphoplasmacytoid cells, and many conspicuous plasma cells.
___ bodies were seen. By immunohistochemistry, B cells were
highlighted by CD20 and BCL2 and were the predominant component
of lymphoid population.  They were negative for CD5 and CD10.
PAX5 was positive in a large subset of B cells, and appeared to
be lost in plasma cells, while MUM1 had a reciprocal staining
pattern. CD3 and CD45 were immunoreactive in a small subset of T
cells. CD23 highlighted several residual follicular dendritic
cell meshworks, and BCL6 and CD10 highlighted occasional 
germinal centers, which appeared reactive and were appropriately 
negative for BCL2. The MIB1 defined proliferation index was low 
overall, ___.
-- On ___, SPEP documented a monoclonal IgM-kappa 
representing 19% (1630 mg/dL) of total protein. Serum viscosity
was 2.3. UPEP was negative for protein including BJP. Serum FLC
assay showed normal free kappa and free lambda levels, with a
slightly increased ratio of 1.78.
-- On ___, diagnostic lymph node biopsy in the left axilla
confirmed the diagnosis of a low-grade, indolent lymphoma,
characterized by our pathologists as nodal marginal zone
lymphoma, not lymphoplasmacytic lymphoma as might be seen with
IgM-kappa in the range associated with smoldering ___.
-- ___, bone marrow biopsy and blood tests revealed 
worsening IgM levels and increasing serum viscosity. She started
plasmapharesis on ___ and then started rituximab on ___
but she developed an allergic reaction and thus was seen by
allergy to undergo recommended desensitization protocol.
-- ___: Rituxan infused per desensitization protocol without
incident
-- ___ Rituxamab desensitization protocol
    
PAST MEDICAL HISTORY:  
-- s/p R poorly differentiated, ER-negative, 0.3 X 0.5 cm
infiltrating ductal carcinoma in ___, treated with R 
lumpectomy,
R axillary node dissection followed by XRT.
-- HTN.
-- Macular scarring.
-- Psoriasis.
-- Hx of Lyme disease ___ years ago, tx with 1 month course of
doxycycline.

 
Social History:
___
Family History:
- Both parents had rheumatoid arthritis. 
- Father died of metastatic melanoma at age ___ yrs, hx of 
lymphoma; mother with hx of retroperitoneal fibrosis, lymphoma 
s/p chemotherapy, which included rituximab. 4 sisters/1 brother 
alive & well.

 
Physical Exam:
ADMISSION EXAM: 
===============
Vitals: 98.2 99 145/75 18 98%RA W: 10  lbs H: 5'4"
GENERAL: Overall well appearing in street clothes, walking 
around the room in NAD. Slightly anxious, pressured speech, 
emotional
CARDIAC: no m/r/g RRR  
LUNG: CTAB moving air well and symmetrically 
ABDOMEN: Soft, non tender, overweight, NABS throughout 
EXTREMITIES: no edema  
SKIN: no rashes 
Neuro: AOx3, gait within normal limits, normal motor and sensory 
function throughout, CN2-12 grossly intact
   
DISCHARGE EXAM:
===============
GENERAL: Overall well appearing in street clothes, walking 
around the room in NAD. Slightly anxious, pressured speech, 
emotional
CARDIAC: no m/r/g RRR  
LUNG: CTAB moving air well and symmetrically 
ABDOMEN: Soft, non tender, overweight, NABS throughout 
EXTREMITIES: no edema  
SKIN: no rashes 
Neuro: AOx3, gait within normal limits, normal motor and sensory 
function throughout, CN2-12 grossly intact
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 10:10AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:10AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 10:10AM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:10AM URINE  HYALINE-10*
___ 09:25AM   GLUCOSE-139* UREA N-6 CREAT-0.8 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 09:25AM   ALT(SGPT)-12 AST(SGOT)-16 ALK PHOS-71 TOT 
BILI-0.4
___ 09:25AM   CALCIUM-11.0* PHOSPHATE-3.3 MAGNESIUM-2.1
___ 09:25AM   WBC-7.1 RBC-3.90* HGB-11.3* HCT-36.3 MCV-93 
MCH-29.1 MCHC-31.3 RDW-13.6
___ 09:25AM   NEUTS-80.8* LYMPHS-11.9* MONOS-5.1 EOS-1.4 
BASOS-0.9
___ 09:25AM   PLT COUNT-469*

IMAGING: 
========
MRI ___: Normal MRI head examination
 
CT Head ___: No evidence of acute intracranial process
 
DISCHARGE LABS:
================
None
 
Brief Hospital Course:
___ female with Waldenstrom's Macroglobulinemia admitted for 
planned Rituximab desensitization.  
   
# Mood lability and falls: No concerning neuro signs or symptoms 
on examintation. In setting of distant breast Ca as well as 
B-Cell lymphocytic process her symptoms were concerning for 
frontal lobe involvement. Head MRI and CTH were both normal and 
without mets. Ritux desensitixation mood changes and lability 
may be related to Dexamethasone possibly exacerbated by 
improving energy while on Sertraline. She has outpatient 
Onco-psychiatry and General Psychiatry already scheduled.
    
# Rituximab Desensitization: Admitted electively for ___ 
infusion of desensitization which she tolerated well without 
incident. She was premedicated with Diphenhydramine 50mg IV, 
Acetaminophen 650mg PO, Famotidine 20mg IV and Dexamethasone 
10mg IV all 30 min prior to infusion. Continued Cetirizine per 
home regimen. 
      
# Anxiety: Chronic and poorly controlled, recently restarted on 
Sertraline in the outpatient setting. Continued Sertraline 50mg 
PO daily and home Clonazepam PRN
    
# Neuropathy: Chronic, stable. Continued Gabapentin  
  
  
Transitional Issues:
- CONTACT: ___, daughter, ___  
- CODE: Full Code 
- Has follow up with outpatiet oncology to determine additional 
course of Rituximab
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. ClonazePAM 0.5 mg PO BID:PRN anxiety 
3. Gabapentin 600 mg PO TID 
4. Acyclovir 400 mg PO Q12H 
5. Sertraline 50 mg PO DAILY 
6. Cetirizine 10 mg oral BID 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Cetirizine 10 mg oral BID 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Gabapentin 600 mg PO TID 
6. Sertraline 50 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active: 
- Rituximab desensitization for anaphylaxis 
 
Chronic: 
- Waldenstrom's Macroglobulinemia  
- Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 
    
It was a pleasure taking care of you at the ___ 
___. You were admitted for fourth of four 
planned rituximab desensitization. You also mentioned 
progressive worsened mood symptoms and falls, head MRI and CT 
were performed to evaluate your symptoms and were both normal. 
 
You received Rituxamab desensitization without issue, you 
tolerated this well prior to discharge.
 
Followup Instructions:
___